US08202856B2
1-(3-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)pyrrolidin-3-ol
The title compound was prepared following the procedure described for Example 94, starting from 3-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde (100 mg; 0.24 mmol) and 3-pyrrolidinol (32.7 mg; 0.48 mmol) to give Example 134 as an off-white solid. 1H NMR: (DMSO-d6, 400 MHz) δ 8.76-8.73 (2H, m), 7.97 (1H, s), 7.96-7.84 (2H, m), 7.76-7.69 (1H, m), 7.61 (2H, dd, J=4.5, 1.6 Hz), 7.59-7.49 (4H, m), 4.74 (1H, d, J=4.4 Hz), 4.29-4.21 (1H, m), 3.75-3.63 (2H, m), 2.75 (1H, dd, J=9.6, 6.2 Hz), 2.63 (1H, q, J=7.8 Hz), 2.51-2.45 (1H, m), 2.36 (1H, dd, J=9.6, 3.8 Hz), 2.10-1.99 (1H, m), 1.64-1.55 (1H, m). LC/MS (Method C): 484 (M+H)+. HPLC (Method E) Rt 2.13 min (Purity: 97.8%).

reactant | 3-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | 0.24 mmol, 100 mg | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C=1C=C(C=O)C=CC1 | C22H13FN6O2
reactant | 3-pyrrolidinol | 0.48 mmol, 32.7 mg | N1CC(CC1)O | C4H9NO
product | 1-(3-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)pyrrolidin-3-ol | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C=1C=C(CN2CC(CC2)O)C=CC1 | C26H22FN7O2
